Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Macrobid
 
Attending: ___.
 
Chief Complaint:
left hand clumsiness and numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with a history of
urinary stricture, hypothyroidism, hyperparathyroidism, HTN, and
HLD who presents with left arm sensory motor changes.

Last known normal is just after midnight on ___. He woke up in
the morning and his left hand and forearm felt numb, "like it 
was
asleep". He went to church and had friends evaluate him for
facial droop or slurred speech, which he did not have. He took 
an
ASA 81 mg. He thought symptoms would improve throughout the day,
but they did not. This AM he thinks symptoms might be slightly
better, but are still present. Reports numbness in left hand and
forearm as well as clumsiness in left hand (difficulty buttoning
things). He has never had similar symptoms. Does endorse more
frequent HA this past month. Described as mild frontal headaches
occurring ___ week, resolve with ASA. No positionality to HA or
correlated sensory/motor changes. Does not have hx of migraines.
Denies sensory/motor changes in other areas of his body,
dysarthria, visual changes, difficult walking. Denies infectious
symptoms including fevers, chills, N/V, LUTS, cough.
 

ROS: 

On neurological review of systems, the patient denies confusion,
difficulties producing or comprehending speech, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

 

On general review of systems, the patient denies recent fever, 
chills. Denies cough, shortness of breath, chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  Denies dysuria, or recent 
change
in bowel or bladder habits.  Denies arthralgias, myalgias, or
rash.

 
Past Medical History:
OBESITY                                                         
HYPERCHOLESTEROLEMIA                                  ___   
ELEVATED BLOOD PRESSURE                               ___   
HYPOTHYROIDISM                                                  
Hx thryoiditis                                                  
HYPERPARATHYROIDISM                                             
HYPERCALCEMIA                                                   
PREMATURE VENTRICULAR CONTRACTIONS                              
H/O MRSA                                              ___   
MRSA in urine                                                   
H/O ELEVATED PSA                                                
H/O INTERSTITIAL PULMONARY INFILTRATES                ___      
possibly from Macrobid therapy                                  
H/O SYSTOLIC MURMER                                   ___   
Echocardiogram on ___ shows left ventricular ejection    
fraction of greater than 55. No aortic stenosis. No aortic      
regurgitation. Mitral valve appears normal with trivial mitral  
regurgitation and no pericardial effusion                       
H/O URETHRAL STRICTURE                                ___   
Urologist at ___. On Testim & Cipro                    

 
Social History:
SOCIAL HISTORY:
Marital status:     Married                                     
Children:           Yes: 3                                      
Lives with:         ___ Children                  
Work: ___
Sexual activity:    Present                                     
Sexual orientation: Female                                      
Contraception:      N/A; None                                   
Tobacco use:        Never smoker                                
Tobacco Use         Pipe x 18 mo.                               
Comments:                                                       
Alcohol use:        Past and Present                            
drinks per week:    ___                                         
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
                                  
- Modified Rankin Scale:
[x] 1: No significant disability - able to carry out all usual
activities despite some symptoms

 
Family History:
FAMILY HISTORY:
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___  STROKE                                    

Father   ___ ___  CEREBRAL HEMMORHAGE                       
                      HYPERTENSION                              
                      CEREBRAL ANEURYSM                         

Sister   ___     BREAST CANCER                             

Sister   ___     LUNG CANCER                               

Comments: 11 sibs. All younger; 2 sisters died of cancer, breast
          and lung; no diabetes, prostate or colon cancer; 3    
          sons alive and well                                   

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Vitals: 
Pain 0 
Temp 97.8 
HR 77 
BP 170/83 
RR 17 O2 100% RA 
 

General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, No nuchal rigidity.
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands.There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    4   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Decreased sensation pinprick and LT left palm and
extensor surfaces and left forearm extensor surfaces, does not
follow a particular distribution. Proprioception intact.

-Reflexes:
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Decreased dexterity of 
finger
tapping on left hand and opening closing left hand. No dysmetria
on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

DISCHARGE PHYSICAL EXAMINATION
VS - ___ 1145AM, T98.1, BP 134/77, HR68, RR18, O2 95 RA
General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, No nuchal rigidity.
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Normal prosody. There were no
paraphasic errors. No dysarthria. Able to
follow both midline and appendicular commands.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
Normal strength except for left ADM ___ APB ___ and OP
___. Wrist flexion & extension, long fingers flexors, and hand
grip all seem normal today. He has a positive Froment's sign.

-Sensory: Decreased sensation pinprick and LT along the 
distribution of the palmar cutaneous branch of the ulnar nerve

-Reflexes:
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Decreased dexterity of 
finger
tapping on left hand and opening closing left hand. No dysmetria
on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  
 
Pertinent Results:
Brain MRI -- No DWI lesions; +
GRE abnormality in the vicinity of R lateral ventricle. Reviewed
with Neuroradiology staff -- thought to represent old hemorrhage
rather than a cavernous malformation or hemorrhagic lesion (not
seen on CT).

___ 06:50AM BLOOD WBC-6.1 RBC-4.35* Hgb-13.9 Hct-41.7 
MCV-96 MCH-32.0 MCHC-33.3 RDW-12.5 RDWSD-44.3 Plt ___
___ 08:55AM BLOOD Neuts-59.6 ___ Monos-7.6 Eos-2.5 
Baso-0.6 Im ___ AbsNeut-3.82 AbsLymp-1.87 AbsMono-0.49 
AbsEos-0.16 AbsBaso-0.04
___ 06:50AM BLOOD ___ PTT-29.5 ___
___ 06:50AM BLOOD Glucose-114* UreaN-16 Creat-0.8 Na-145 
K-4.4 Cl-107 HCO3-21* AnGap-17
___ 08:55AM BLOOD ALT-11 AST-27 CK(CPK)-151 AlkPhos-70 
TotBili-0.3
___ 08:55AM BLOOD Lipase-33
___ 08:55AM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD Calcium-10.7* Phos-3.0 Mg-2.1 Cholest-168
___ 08:55AM BLOOD %HbA1c-5.9 eAG-123
___ 06:50AM BLOOD Triglyc-166* HDL-55 CHOL/HD-3.1 
LDLcalc-80
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of 
hypothyroidism, hyperparathyroidism, hypertension, and 
hyperlipidemia who presented with left hand sensorimotor 
changes.  He woke up with his left hand and forearm feeling numb 
with hand weakness and clumsiness, but without any facial droop 
or slurred speech.  He presented to the ED at the behest of a 
neurologist colleague who had some concern for acute infarct. 
His initial exam was notable for hypertension to 170s/80s, as 
well as weakness of the left wrist extensors, abductor digiti 
minimi, opponens pollicis, and hand grip with decreased 
sensation to touch and pinprick over the dorsum and palm of the 
left hand and forearm, with intact cortical sensation. He had 
slowed left hand rapid alternating movements. His laboratory 
studies were unremarkable. He underwent vessel imaging which was 
unremarkable and brain MRI which did not reveal any acute or 
subacute stroke, but did show a small area of GRE signal in the 
right subcortical white matter which was consistent with a 
remote hemorrhage. His exam improved during hospitalization, and 
by discharge he exam was only noted for weakness of abductor 
digiti minimi and opponens pollicis muscles, with decreased 
sensation over the palmar surface of the hypothenar eminence. 
Although, the possibilities of MRI negative stroke or rapidly 
improving plexopathy were considered. They seemed unlikely. His 
exam upon discharge seemed to be more suggestive of an ulnar 
neuropathy  He was discharged with a prescription for outpatient 
occupational therapy, and follow-up plan with Dr. ___ 
from the Neuromuscular service for further evaluation.

TRANSITIONAL ISSUES
- consider outpatient EMG/NCS if indicated. Dr. ___ will 
decide.
- follow up in Neurology clinic

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. methenamine hippurate 1 gram oral DAILY 
3. Pravastatin 40 mg PO QPM 
4. Ascorbic Acid ___ mg PO DAILY 
5. Vitamin D 400 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Fish Oil (Omega 3) 1000 mg PO DAILY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  methenamine hippurate 1 gram oral DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Pravastatin 40 mg PO QPM  
7.  Vitamin D 400 UNIT PO DAILY  
8.Outpatient Occupational Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left Hand Weakness and Numbness
Left Ulnar neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of left hand numbness, 
weakness, and clumsiness.  The cause of the symptoms is as of 
yet, unknown.  There was concern when you first came in that you 
had suffered a stroke, but MRI did not show a stroke.  This 
could be an ulnar neuropathy potentially. On MRI we noted an old 
small brain bleed, but this seemed unlike to account for your 
symptoms after reviewing the images with the Neuroradiology 
staff. Your neurology exam improved while you were hospitalized 
and you were discharged home without any change in medications.  
You are planned for an outpatient follow up with Dr. ___ 
___ to further evaluate your symptoms on ___. You 
were given a prescription for outpatient occupational therapy as 
well.

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___